US07662832B2
In accordance with the same procedures as in Steps 1, 2, and 3 of Preparation 21, except for using 3-fluorophenethylamine and acetyl chloride, 6-fluoro-1-methyl-1,2,3,4-tetrahydroisoquinoline was obtained. In accordance with the same procedures as in Preparation 20, the titled compound was obtained as pale yellow oil. (Yield: 55%) The product was used in the subsequent step without further purification.

reactant | 3-fluorophenethylamine | FC=1C=C(CCN)C=CC1 | C8H10FN
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 6-fluoro-1-methyl-1,2,3,4-tetrahydroisoquinoline | FC=1C=C2CCNC(C2=CC1)C | C10H12FN
